US07777047B2
{2-[7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid
Ethyl {2-[7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (0.55 g) was dissolved in a mixed solvent of tetrahydrofuran (6 mL)-methanol (6 mL). Aqueous potassium hydroxide solution (prepared by dissolving potassium hydroxide (0.30 g) in water (5 mL)) was added to this solution, and the mixture was stirred at room temperature for 6 hr. The reaction solution was acidified with aqueous citric acid solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained pale-yellow oil was crystallized from ethyl acetate-hexane to give the title compound (372 mg, yield: 72%) as pale-yellow crystals. MS: 498 (MH+). melting point 170-172° C.

reactant | Ethyl {2-[7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 0.55 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C23H22F3N3O4S2
reactant | potassium hydroxide | 5 mL, 0.30 g | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
product | {2-[7-(methyl{[2-(trifluoromethyl)phenyl]sulfonyl}amino)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 372 mg, yield: 72% | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C21H18F3N3O4S2
